US08937184B2
Part A: To a magnetically stirred solution of ethyl N-benzyl-5-methyl-1H-imidazole-4-carboxylate (8.4 gram, 0.0345 mol) in methanol (200 ml) was slowly added a solution of KOH (7.3 gram, 85% grade, 0.110 mol) and the resulting mixture was heated at 80° C. for 2 hours. The solution was cooled to room temperature and concentrated HCl (9.2 ml) was subsequently added. The formed precipitate was collected by filtration to give N-benzyl-5-methyl-1H-imidazole-4-carboxylic acid (6.77 gram, 91% yield). Melting point: 292° C. (decomposition).

reactant | ethyl N-benzyl-5-methyl-1H-imidazole-4-carboxylate | 0.0345 mol, 8.4 gram | C(C1=CC=CC=C1)N1C=NC(=C1C)C(=O)OCC | C14H16N2O2
reactant | KOH | 0.110 mol, 7.3 gram | [OH-].[K+]
reactant | HCl | 9.2 ml | Cl | ClH
solvent | methanol | 200 ml | CO | CH4O
product | N-benzyl-5-methyl-1H-imidazole-4-carboxylic acid | 6.77 gram, 91% yield | C(C1=CC=CC=C1)N1C=NC(=C1C)C(=O)O | C12H12N2O2
